US03966938
Cis-8,9-dimethoxy-2-methyl-6-(4-pentanoylaminophenyl)-1,2,3,4,4a,10b-hexahydrobenzo[c][1,6]naphthyridine
3 g of 6-(4-aminophenyl)-8,9-dimethoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine and 6,2 g of valeric acid chloride are heated to the boil under reflux in 70 ml of acetonitrile for 7 hours. The reaction mixture is evaporated to dryness in a vacuum, water is added to the residue, the reaction mixture is made alkaline with potassium carbonate and extracted with methylene chloride. The solution is concentrated by evaporation, the crude product is dissolved in ethanol and a slight excess of hydrochloric acid in ethanol is added, whereby the title compound crystallizes in dihydrochloride form (melting point: 230°-235°).

reactant | 6-(4-aminophenyl)-8,9-dimethoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine | 3 g | NC1=CC=C(C=C1)C1=NC2CCN(CC2C2=C1C=C(C(=C2)OC)OC)C | C21H25N3O2
reactant | valeric acid chloride | 6,2 g | C(CCCC)(=O)Cl | C5H9ClO
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | Cis-8,9-dimethoxy-2-methyl-6-(4-pentanoylaminophenyl)-1,2,3,4,4a,10b-hexahydrobenzo[c][1,6]naphthyridine | COC=1C(=CC2=C(C(=N[C@H]3CCN(C[C@@H]23)C)C2=CC=C(C=C2)NC(CCCC)=O)C1)OC | C26H33N3O3
